US05886014
5-(4-Methoxycarbonylmethoxybenzyl)thiazolidine-2,4-dione
1700 ml of acetic acid and then 400 ml of water were added at room temperature to a suspension of 344 g of 5-(4-methoxycarbonylmethoxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione (prepared as described in Preparation 20) in 400 ml of 1,4-dioxane and the resulting mixture was stirred for 5 hours at 80° C. At the end of this time, the reaction mixture was freed from the solvent by evaporation under reduced pressure, and the resulting residue was purified by column chromatography through silica gel using a 1:2 by volume mixture of ethyl acetate and hexane, a 2:1 by volume mixture of ethyl acetate and hexane and then ethyl acetate as eluents, to give 161.7 g of the title compound, melting at 100°-106° C.

reactant | acetic acid | 1700 ml | C(C)(=O)O | C2H4O2
reactant | water | 400 ml | O | H2O
reactant | 5-(4-methoxycarbonylmethoxybenzyl)-3-triphenylmethylthiazolidine-2,4-dione | 344 g | COC(=O)COC1=CC=C(CC2C(N(C(S2)=O)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1 | C32H27NO5S
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 5-(4-Methoxycarbonylmethoxybenzyl)thiazolidine-2,4-dione | 161.7 g | COC(=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C13H13NO5S
